* sg13g2-bandgap -- SG13CMOS5L bandgap_core open-loop PVT testbench (issue #65)
* Generated from
* sim/sg13cmos5l-core-open-loop-bias/testbench/tb_sg13cmos5l_core_open_loop_bias.spice.tmpl
* by sim/sg13cmos5l-core-open-loop-bias/run_pvt_sweep.sh -- do not edit a
* generated netlist-snapshots/*.spice file directly, edit this template and
* re-run the sweep. Full rationale for every choice below is in
* sim/sg13cmos5l-core-open-loop-bias/README.md; this header is a short
* pointer, not a restatement.
*
* Generated for: corner=wcs temp=125C vdd=2.97V
* DUT git sha (design/sg13cmos5l/netlist/bandgap_core.spice this was
* copied from):
*   e13e9dc
* PDK: ihp-sg13cmos5l /home/ubuntu/share/pdk (see sim/pdk-sg13cmos5l.json for the pinned
*   revision)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi (this PDK ships these prebuilt -- see
*   sim/pdk-sg13cmos5l.json "osdi_toolchain"; no build-osdi.sh compile step
*   needed for this PDK as of that pin)
*
* Every device below is the PDK's own real compact model: the three
* sg13_hv_pmos mirror legs (PSP103.6, via psp103.osdi) and both rppd
* resistors (r3_cmc, via r3_cmc.osdi) are instantiated exactly as
* design/sg13cmos5l/netlist/bandgap_core.spice draws them -- same instance
* names, same node names, same W/L/a/p -- next to the three real pnpMPA
* devices (grounded-collector, diode-connected: base+collector tied to
* vss, emitter driven by the mirror -- see design/sg13cmos5l/README.md and
* spec/decision-records/0004-cmos5l-bipolar-device-selection.md for the
* topology rationale, the reverse of SG13G2's own grounded-EMITTER
* npn13G2 core). The only additions to the DUT netlist are the four
* measurement/bias elements below (FIXTURE 1/2), each a testbench
* fixture, not a device substitution -- same pattern
* sim/core-open-loop-bias uses for SG13G2's own npn13G2-based core.

.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerPNP.lib" wcs
.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib" mos_ss
.lib "/home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib" res_wcs

.options temp=125 tnom=27

Vvdd vdd 0 dc 2.97
Vvss vss 0 dc 0
* bandgap_core.spice wires both rppd bulk terminals to the global
* substrate net `sub!`; tied to vss through a 0 V source here, the same
* convention every testbench in this tree uses
* (sim/core-open-loop-bias/README.md).
Vsub sub! vss dc 0

* FIXTURE 1 -- open-loop mirror bias. design/sg13cmos5l/bandgap_amp.sch and
* bandgap_top.sch now exist (issue #68) -- unlike SG13G2's own
* core-open-loop-bias precedent (written before design/bandgap_amp.sch
* existed), a real amplifier IS available for this core. This experiment
* deliberately still isolates the core's own PTAT/CTAT generation from
* amplifier loop dynamics by biasing the mirror open-loop from a
* diode-connected replica leg carrying 5 uA -- the same fixture pattern and
* current sim/core-open-loop-bias/testbench uses for the SG13G2 core.
* sim/sg13cmos5l-closed-loop-startup is the companion experiment that
* removes this fixture entirely and lets the real amplifier close the loop.
XM0 fb fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Ibias fb vss dc 5u

* DUT mirror legs, geometry verbatim from
* design/sg13cmos5l/netlist/bandgap_core.spice.
* FIXTURE 2 -- each leg's drain reaches its DUT node through a 0 V source,
* used purely as an ammeter; a 0 V source is a short at DC and does not
* move the operating point.
XM1 m1d fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Vm1 m1d sns1 dc 0
XM2 m2d fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Vm2 m2d sns2 dc 0
XM3 m3d fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Vm3 m3d vref dc 0

XQ1 vss vss sns1 pnpMPA a={ 1u * 2u } p={ ( 1u + 2u ) * 2 } m=1
XR2 sns2 e2 sub! rppd w=2u l=85.1u m=1 b=0
XQ2 vss vss e2 pnpMPA a={ 8u * 2u } p={ ( 8u + 2u ) * 2 } m=1
XR1 vref e3 sub! rppd w=2u l=647.0u m=1 b=0
XQ3 vss vss e3 pnpMPA a={ 1u * 2u } p={ ( 1u + 2u ) * 2 } m=1

.op
.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
run
print v(vref) v(fb) v(sns1) v(sns2) v(e2) v(e3) i(vm1) i(vm2) i(vm3)
.endc
.end
